US06011060
5-(3,4-Dimethoxyphenyl)-5-methyl-dihydro-2-furanone
100 ml of a 0.1 M solution of samarium(II) iodide in tetrahydrofuran is mixed, with oxygen carefully excluded, with the solution of 710 mg of 3,4-dimethoxyacetophenone, 500 mg of methyl acrylate and 350 mg of tert-butanol in 5 ml of tetrahydrofuran. The reaction solution is mixed thoroughly, allowed to stand for two hours at room temperature and then poured into 100 ml of 20% hydrochloric acid. It is stirred for two hours at room temperature and extracted with diethyl ether. The ether phase is washed with sodium thiosulfate solution and water, dried on sodium sulfate and concentrated by evaporation in a vacuum. The oily residue is chromatographed on a silica gel column (Kromasil 100/10 μm) with a hexane-tert-butyl methyl ether mixture (4:1). 570 mg of (R,S)-5-(3,4-dimethoxyphenyl)-5-methyl-dihydro-2-furanone is eluted, melting point 71.2° C.

reactant | samarium(II) iodide | [I-].[Sm+2].[I-]
reactant | oxygen | O=O | O2
reactant | 3,4-dimethoxyacetophenone | 710 mg | CC(=O)C1=CC(=C(C=C1)OC)OC | C10H12O3
reactant | methyl acrylate | 500 mg | C(C=C)(=O)OC | C4H6O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tert-butanol | 350 mg | C(C)(C)(C)O | C4H10O
product | 5-(3,4-Dimethoxyphenyl)-5-methyl-dihydro-2-furanone | COC=1C=C(C=CC1OC)C1(CCC(O1)=O)C | C13H16O4
